US05902817
Preparation of 2-[(benzylsulfinyl)methyl]pentanedioic acid
To a cooled mixture (-78° C.) of 2-[(benzylsulfanyl)methyl]pentanedioic acid (5.2 g, 19.4 mmol) in dichloromethane (100 ml) was added 3-chloroperbenzoic acid (85%, 3.9 g, 19.4 mmol) with stirring. The reaction mixture was allowed to stir for 1 hour at -78° C., then allowed to warm to room temperature. If starting material was still present according to analysis by TLC, the reaction was cooled again to -78° C. and additional 3-chloroperbenzoic acid (2-4 mmol depending on the intensity of the starting material spot) added and the reaction mixture allowed to warm at room temperature. This was repeated until no more starting material was detected by TLC. The dichloromethane was removed under reduced pressure and the resulting residue was purified by column chromatography to yield 3.8 g (69%) of white solid.

reactant | 2-[(benzylsulfanyl)methyl]pentanedioic acid | 19.4 mmol, 5.2 g | C(C1=CC=CC=C1)SCC(C(=O)O)CCC(=O)O | C13H16O4S
reactant | 3-chloroperbenzoic acid | 19.4 mmol, 3.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-[(benzylsulfinyl)methyl]pentanedioic acid | 3.8 g, 69% | C(C1=CC=CC=C1)S(=O)CC(C(=O)O)CCC(=O)O | C13H16O5S
